US09278944B2
To a solution of 6-hydroxyindan-1-one (1.48 g) in acetonitrile (30 mL) were added 4-methoxybutyl 4-methylbenzenesulfonate (2.93 g), potassium iodide (166 mg) and potassium carbonate (2.07 g), and the mixture was heated to stir at 80° C. for 5 hours. To the reaction mixture was added water under ice-cooling, and then the mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=7/3), and then triturated with n-hexane/isopropyl ether (2:1) to give 6-(3-methoxypropoxy)indan-1-one [REx(11-1)] (1.1 g) as a colorless powder.

reactant | 6-hydroxyindan-1-one | 1.48 g | OC1=CC=C2CCC(C2=C1)=O | C9H8O2
reactant | 4-methoxybutyl 4-methylbenzenesulfonate | 2.93 g | CC1=CC=C(C=C1)S(=O)(=O)OCCCCOC | C12H18O4S
reactant | potassium iodide | 166 mg | [I-].[K+]
reactant | potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 6-(3-methoxypropoxy)indan-1-one | 1.1 g | COCCCOC1=CC=C2CCC(C2=C1)=O | C13H16O3
